US04927958
A solution of 14.3 g (50 mmol) of 5,5-dibromobarbituric acid in 300 ml of ether was treated with 17.6 g (0.1 mol) of 4-(3-methoxyphenyl)-3-buten-2-one and the mixture was stirred at room temperature for 20 hours. The separated barbituric acid was filtered off. The filtrate was washed in succession with saturated sodium bicarbonate solution and with water. The organic phase was dried over sodium sulphate and concentrated. Flash chromatography of the residue on 1000 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1) yielded (E)-1-bromo-4-(3-methoxyphenyl)-3-buten-2-one as a yellow oil.

reactant | 5,5-dibromobarbituric acid | 50 mmol, 14.3 g | BrC1(C(NC(NC1=O)=O)=O)Br | C4H2Br2N2O3
reactant | 4-(3-methoxyphenyl)-3-buten-2-one | 0.1 mol, 17.6 g | COC=1C=C(C=CC1)C=CC(C)=O | C11H12O2
solvent | ether | 300 ml | CCOCC | C4H10O
product | (E)-1-bromo-4-(3-methoxyphenyl)-3-buten-2-one | BrCC(\C=C\C1=CC(=CC=C1)OC)=O | C11H11BrO2
